datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[O:18][O:19][H:20]>>[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])[H:12])([H:8])([H:9])[H:10].[H:11][O:18][O:19][H:20],47.2792
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([S:4][H:10])[H:6])[H:5].[C:11](=[C:12]([C:13]([C:14]([H:20])([H:21])[H:22])[C:15](=[C:16]([H:24])[H:25])[H:23])[H:19])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[S:4][H:10])[H:5].[H:6][C:13]([C:12](=[C:11]([H:17])[H:18])[H:19])([C:14]([H:20])([H:21])[H:22])[C:15](=[C:16]([H:24])[H:25])[H:23],28.8696
[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[O:5][O:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[O:5][O:6][H:10])[H:11])([H:7])([H:8])[H:9],125.98
[C:0]([C:1]([C:2]([C:3](=[O:4])[H:12])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[H:13]>>[C:0]([C:1]([C:2]([C:3]=[O:4])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[H:12][H:13],9.70688
[C:0]([S:1][C:2]([O:3][O:4])([H:8])[H:9])([H:5])([H:6])[H:7].[C:10]([S:11][C:12]([O:13][O:14])([H:18])[H:19])([H:15])([H:16])[H:17]>>[C:0]([S:1][C:2](=[O:3])[H:9])([H:5])([H:6])[H:7].[H:8][O:13][C:12]([S:11][C:10]([H:15])([H:16])[H:17])([H:18])[H:19].[O:4][O:14],-6.236
[C:0](#[C:1][C:2](=[S:3])[H:5])[H:4].[C:6](#[C:7][C:8]([C:9]([H:12])([H:13])[H:14])[S:10][H:15])[H:11]>>[C:0](#[C:1][C:2]=[S:3])[H:4].[H:5][C:8]([C:7]#[C:6][H:11])([C:9]([H:12])([H:13])[H:14])[S:10][H:15],168.197
[C:0](#[C:1][C:2]([S:3][H:6])[H:5])[H:4].[S:7]=[C:8]([S:9][H:11])[H:10]>>[C:0](#[C:1][C:2]([S:3][H:6])([H:5])[H:10])[H:4].[S:7]=[C:8][S:9][H:11],133.972
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])[H:7])[H:6].[C:14](=[C:15]([H:17])[H:18])[H:16]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])([C:5]([H:11])([H:12])[H:13])[C:14](=[C:15]([H:17])[H:18])[H:16])[H:7])[H:6],3.9748
[O:0]=[S:1][O:2][H:3]>>[H:3].[O:0]=[S:1]=[O:2],212.9656
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[H:9])[H:8])[H:7])([H:5])[H:6].[C:13](=[C:14][C:15]([H:18])([H:19])[H:20])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])[H:9])([H:8])[C:14](=[C:13]([H:16])[H:17])[C:15]([H:18])([H:19])[H:20])[H:7])([H:5])[H:6],11.3386
[C:0]([C:1]([C:2]([C:3]([O:4][H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8])([H:5])[H:6]>>[C:0]([C:1]([C:2]([C:3]([O:4][H:13])[H:12])([H:9])[H:10])([H:7])[H:8])([H:5])([H:6])[H:11],62.3834
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:19])([H:17])[H:18])([H:15])[H:16])([O:7][O:8])[H:14])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2](=[C:3]([C:4]([O:5][O:6][H:19])([H:17])[H:18])[H:16])[H:14])([H:12])[H:13])([H:9])([H:10])[H:11].[O:7][O:8][H:15],125.030472
[C:0](#[C:1][C:2](=[C:3]=[C:4]([H:7])[H:8])[H:6])[H:5].[C:9]([c:10]1[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]1[H:22])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]=[C:4]([H:7])[H:8])([H:6])[C:9]([c:10]1[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]1[H:22])([H:16])[H:17])[H:5],46.1495
[C:0](=[C:1]1[C:2]([H:9])[C:3]([C:4]([H:11])([H:12])[H:13])([H:10])[C:5]([H:14])=[C:6]1[H:15])([H:7])[H:8]>>[C:0](=[C:1]1[C:2]([H:9])([H:11])[C:3]([C:4]([H:12])[H:13])([H:10])[C:5]([H:14])=[C:6]1[H:15])([H:7])[H:8],183.6776
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])([c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])[H:12])([H:9])([H:10])[H:11].[C:21]([C:22]([S:23][H:33])[c:24]1[c:25]([H:34])[c:26]([H:35])[c:27]([H:36])[c:28]([H:37])[c:29]1[H:38])([H:30])([H:31])[H:32]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])[c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])([H:9])([H:10])[H:11].[H:12][C:22]([C:21]([H:30])([H:31])[H:32])([S:23][H:33])[c:24]1[c:25]([H:34])[c:26]([H:35])[c:27]([H:36])[c:28]([H:37])[c:29]1[H:38],21.3384
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:12].[C:24](=[C:25][C:26]([H:29])([H:30])[H:31])([H:27])[H:28]>>[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[C:25](=[C:24]([H:27])[H:28])[C:26]([H:29])([H:30])[H:31])[H:12],9.8324
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8]([C:9]([H:21])([H:22])[H:23])=[C:10]([C:11]([H:24])([H:25])[H:26])[c:12]1[c:13]([H:27])[c:14]([H:28])[c:15]([H:29])[c:16]([H:30])[c:17]1[H:31])[H:20])([H:18])[H:19]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:8]([C:7](=[C:6]([H:18])[H:19])[H:20])([C:9]([H:21])([H:22])[H:23])[C:10]([C:11]([H:24])([H:25])[H:26])[c:12]1[c:13]([H:27])[c:14]([H:28])[c:15]([H:29])[c:16]([H:30])[c:17]1[H:31])[H:3],43.2207
